* D:\cftur\Documents\Ingenieria\10-2019_SegundoSemestre\Capstone\Capstone-\Propuesta 1\EcualizadorP1.asc
R25 N014 VHP 560
R26 N014 VBP 180
R27 N014 VLP 500
R28 OUT1 N014 560
XU13 N014 0 OUT1 opamp Aol=100K GBW=10Meg
V1 In 0 AC 1
R1 N001 In 1218.12
R2 N006 N001 1218.12
C1 N002 N001 10n
C2 N006 0 17.0709n
R3 N008 0 4872.5
R4 N002 N008 4872.5
XU1 N008 N006 N002 opamp Aol=100K GBW=10Meg
R5 N003 N002 1722.66
R6 N007 N003 1722.66
C3 N004 N003 10n
C4 N007 0 8.53575n
R7 N010 0 6890.64
R8 N004 N010 6890.64
XU2 N010 N007 N004 opamp Aol=100K GBW=10Meg
R9 N015 N013 '(1.39106*10**7)/FH'
R10 N017 N015 '(1.39106*10**7)/FH'
C5 VBP N015 10n
C6 N017 0 13.0903n
R11 N019 0 '(5.56424*10**7)/FH'
R12 VBP N019 '(5.56424*10**7)/FH'
XU3 N019 N017 VBP opamp Aol=100K GBW=10Meg
C9 N022 N021 100n
C10 N026 N022 100n
R17 N026 0 4060.41
R18 N029 0 8120.83
R19 N023 N029 8120.83
R20 N023 N022 6931.5
XU5 N029 N026 N023 opamp Aol=100K GBW=10Meg
C13 N005 N004 100n
C14 N009 N005 100n
R29 N009 0 '(1.39106*10**6)/FH'
R30 N011 0 '(2.78212*10**6)/FH'
R31 VHP N011 '(2.78212*10**6)/FH'
R32 VHP N005 '(1.820940*10**6)/FH'
XU7 N011 N009 VHP opamp Aol=100K GBW=10Meg
C15 N024 N023 100n
C16 N028 N024 100n
R33 N028 0 5742.2
R34 N030 0 11484.4
R35 VLP N030 11484.4
R36 VLP N024 4901.39
XU8 N030 N028 VLP opamp Aol=100K GBW=10Meg
C11 N012 In 100n
C12 N016 N012 100n
R21 N016 0 '(1.39106*10**6)/FL'
R22 N018 0 '(2.78212*10**6)/FL'
R23 N013 N018 '(2.78212*10**6)/FL'
R24 N013 N012 '(1.820940*10**6)/FL'
XU6 N018 N016 N013 opamp Aol=100K GBW=10Meg
R37 N020 In '(1.39106*10**7)/FL'
R38 N025 N020 '(1.39106*10**7)/FL'
C17 N021 N020 10n
C18 N025 0 13.0903n
R39 N027 0 '(5.56424*10**7)/FL'
R40 N021 N027 '(5.56424*10**7)/FL'
XU9 N027 N025 N021 opamp Aol=100K GBW=10Meg
* .include D:\\cftur\\Documents\\LtspiceXVII\\lib\\LM741.MOD
.ac dec 10000 0.1 10000k
.lib opamp.sub
* PASA BAJOS
* PASA ALTOS
* PASA ALTOS
* PASA ALTOS
* PASA BAJOS
* 10KHZ
* 300HZ
.param FH=5K
.param FL=1K
* PASA BAJOS
.backanno
.end
